US04927827
To tetrahydrofuran (30 ml) were added diethyl malonate (1.35 g) and 60% oilly sodium hydride (0.34 g), and then 4-chloro-2-(6-o-chlorophenoxy-2-pyridinyl)-6-n-propylpyrimidine (2 g). The mixture was heated under refluxing for 30 minutes. Sodium hydroxide (0.72 g) solution in water (10 ml) and methanol (10 ml) were added thereto, and the mixture was further heated under refluxing for 20 minutes. After the mixture was left to stand until it was cooled to room temperature, sulfuric acid (1.2 g) was added dropwise thereto. The mixture was heated under refluxing for 30 minutes and left to stand to room temperature. 1-N aqueous sodium carbonate solution was added until a mixture was neutralized, and concentrated under reduced pressure. The residue was subjected to silica-gel column chromatography (eluent; n-hexane: ethyl acetate=2:1 in volume) to give 2-(6-o-chlorophenoxy-2-pyridinyl)-4-methyl-6-n-propylpyrimidine (1.45 g, yield 74%).

reactant | diethyl malonate | 1.35 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 0.34 g | [H-].[Na+]
reactant | 4-chloro-2-(6-o-chlorophenoxy-2-pyridinyl)-6-n-propylpyrimidine | 2 g | ClC1=NC(=NC(=C1)CCC)C1=NC(=CC=C1)OC1=C(C=CC=C1)Cl | C18H15Cl2N3O
reactant | Sodium hydroxide | 0.72 g | [OH-].[Na+]
reactant | sulfuric acid | 1.2 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 10 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-(6-o-chlorophenoxy-2-pyridinyl)-4-methyl-6-n-propylpyrimidine | 1.45 g, yield 74% | ClC1=C(OC2=CC=CC(=N2)C2=NC(=CC(=N2)C)CCC)C=CC=C1 | C19H18ClN3O
